*****************************************************************************
*  Generic 0.25um Process
*****************************************************************************
*      
* note:
* corner_name
* TT : Typical model for NMOS & PMOS
* SS : Slow NMOS Slow PMOS model
* FF : Fast NMOS Fast PMOS model
* SF : Slow NMOS Fast PMOS model
* FS : Fast NMOS Slow PMOS model
*      

*****************************************************************************
* Corner Model Typical
*****************************************************************************
.LIB TT
.PARAM dxl=0
.PARAM dxw=0

.LIB 'Generic_025.lib' TT_NMOS_PARAMETERS
.LIB 'Generic_025.lib' TT_PMOS_PARAMETERS
.LIB 'Generic_025.lib' MOS_BIN_MODEL
.LIB 'Generic_025.lib' Typ
.LIB 'Generic_025.lib' RES_CAP

.ENDL TT

*****************************************************************************
* Corner Model Slow NMOS-Slow PMOS
*****************************************************************************
.LIB SS
.PARAM dxl=30nm
.PARAM dxw=-40nm
.LIB 'Generic_025.lib' SLOW_NMOS_PARAMETERS
.LIB 'Generic_025.lib' SLOW_PMOS_PARAMETERS
.LIB 'Generic_025.lib' MOS_BIN_MODEL
.LIB 'Generic_025.lib' Max
.LIB 'Generic_025.lib' RES_CAP

.ENDL SS

*****************************************************************************
* Corner Model Fast NMOS-Fast PMOS
*****************************************************************************
.LIB FF
.PARAM dxl=-30nm
.PARAM dxw=40nm

.LIB 'Generic_025.lib' FAST_NMOS_PARAMETERS
.LIB 'Generic_025.lib' FAST_PMOS_PARAMETERS
.LIB 'Generic_025.lib' MOS_BIN_MODEL
.LIB 'Generic_025.lib' Min
.LIB 'Generic_025.lib' RES_CAP

.ENDL FF

*****************************************************************************
* Corner Model Fast NMOS-Slow PMOS
*****************************************************************************
.LIB FS
.PARAM dxl=0
.PARAM dxw=0

.LIB 'Generic_025.lib' FAST_NMOS_PARAMETERS
.LIB 'Generic_025.lib' SLOW_PMOS_PARAMETERS
.LIB 'Generic_025.lib' MOS_BIN_MODEL
.LIB 'Generic_025.lib' Typ
.LIB 'Generic_025.lib' RES_CAP

.ENDL FS

*****************************************************************************
* Corner Model Slow NMOS-Fast PMOS
*****************************************************************************
.LIB SF
.PARAM dxl=0
.PARAM dxw=0

.LIB 'Generic_025.lib' SLOW_NMOS_PARAMETERS
.LIB 'Generic_025.lib' FAST_PMOS_PARAMETERS
.LIB 'Generic_025.lib' MOS_BIN_MODEL
.LIB 'Generic_025.lib' Typ
.LIB 'Generic_025.lib' RES_CAP

.ENDL SF

*****************************************************************************
* Device Specific parameters
*****************************************************************************
.LIB FAST_NMOS_PARAMETERS
.PARAM TOxN=4nm
.PARAM dVthN=-0.07
.PARAM CjN=1.8E-3
.PARAM CjswN=4.2E-10
.ENDL FAST_NMOS_PARAMETERS

.LIB TT_NMOS_PARAMETERS
.PARAM TOxN=5nm
.PARAM dVthN=0
.PARAM CjN=1.9E-3
.PARAM CjswN=4.4E-10
.ENDL TT_NMOS_PARAMETERS

.LIB SLOW_NMOS_PARAMETERS
.PARAM TOxN=6nm
.PARAM dVthN=0.07
.PARAM CjN=2.1E-3
.PARAM CjswN=4.6E-10
.ENDL SLOW_NMOS_PARAMETERS

.LIB FAST_PMOS_PARAMETERS
.PARAM TOxP=4nm
.PARAM dVthP=0.04
.PARAM CjP=1.81E-3
.PARAM CjswP=3.6E-10
.ENDL FAST_PMOS_PARAMETERS

.LIB TT_PMOS_PARAMETERS
.PARAM TOxP=5nm
.PARAM dVthP=0
.PARAM CjP=1.9E-3
.PARAM CjswP=3.8E-10
.ENDL TT_PMOS_PARAMETERS

.LIB SLOW_PMOS_PARAMETERS
.PARAM TOxP=6nm
.PARAM dVthP=-0.04
.PARAM CjP=2.1E-3
.PARAM CjswP=4.0E-10
.ENDL SLOW_PMOS_PARAMETERS

.LIB Typ

.PARAM Poly_RSH=150
.PARAM MIM_Carea=2fF

.ENDL Typ

.LIB MAX

.PARAM Poly_RSH=175
.PARAM MIM_Carea=2.2fF

.ENDL

.LIB MIN

.PARAM Poly_RSH=125
.PARAM MIM_Carea=1.8fF

.ENDL

.LIB MOS_BIN_MODEL

*****************************************************************************
* NMOS Model
*****************************************************************************
* (W/L)
* L
*    W Increasing ----->
* I  (0.25/0.25)  (12.0/0.25)
* n      to	     to
* c  (12.0/5.0)   (50.0/5.0)
* r  ------------ ------------
* e  |  NMOS.1   |  NMOS.2   |
* a  |           |           |
* s  ------------ ------------
* i  |  NMOS.3   |  NMOS.4   |
* n  |           |           |
* g   ------------ ------------
*    (0.25/5.0)   (12.0/5.0)
* |       to	     to
* |  (12.0/10.0)  (50.0/10.0)
* \/

.MODEL NMOS NMOS (                                 LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 5.6E-9
+XJ      = 1E-7           NCH     = 2.3549E17      VTH0    = '0.3703728+dVthN'
+K1      = 0.4681093      K2      = 7.541163E-4    K3      = 1E-3
+K3B     = 1.6723088      W0      = 1E-7           NLX     = 1.586853E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 0.5681239      DVT1    = 0.6650313      DVT2    = -0.5
+U0      = 284.0529492    UA      = -1.538419E-9   UB      = 2.706778E-18
+UC      = 2.748569E-11   VSAT    = 1.293771E5     A0      = 1.5758996
+AGS     = 0.2933081      B0      = -5.433191E-9   B1      = -1E-7
+KETA    = -4.899001E-3   A1      = 3.196943E-5    A2      = 0.5018403
+RDSW    = 126.2217131    PRWG    = 0.5            PRWB    = -0.2
+WR      = 1              WINT    = 0              LINT    = 1.34656E-9
+XL      = 'dxl'          XW      = '-4E-8+dxw'    DWG     = -1.127362E-8
+DWB     = -3.779056E-9   VOFF    = -0.0891381     NFACTOR = 1.29317
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 6.291887E-3    ETAB    = 3.385328E-4
+DSUB    = 0.0449797      PCLM    = 1.5905872      PDIBLC1 = 1
+PDIBLC2 = 2.421388E-3    PDIBLCB = -0.0752287     DROUT   = 0.9999731
+PSCBE1  = 7.947415E10    PSCBE2  = 5.8496E-10     PVAG    = 1.01007E-7
+DELTA   = 0.01           RSH     = 3.9            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 4.65E-10       CGSO    = 4.65E-10       CGBO    = 5E-10
+CJ      = 1.698946E-3    PB      = 0.99           MJ      = 0.450283
+CJSW    = 3.872151E-10   PBSW    = 0.8211413      MJSW    = 0.2881135
+CJSWG   = 3.29E-10       PBSWG   = 0.8211413      MJSWG   = 0.2881135
+CF      = 0              PVTH0   = -9.283858E-3   PRDSW   = -10
+PK2     = 4.074676E-3    WKETA   = 7.164908E-3    LKETA   = -7.349276E-3    )
*
.MODEL PMOS PMOS (                                 LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 5.6E-9
+XJ      = 1E-7           NCH     = 4.1589E17      VTH0    = '-0.4935548+dVthP'
+K1      = 0.6143278      K2      = 6.804492E-4    K3      = 0
+K3B     = 5.8844074      W0      = 1E-6           NLX     = 6.938169E-9
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 2.3578746      DVT1    = 0.7014778      DVT2    = -0.1881376
+U0      = 100            UA      = 9.119231E-10   UB      = 1E-21
+UC      = -1E-10         VSAT    = 1.782051E5     A0      = 0.9704347
+AGS     = 0.1073973      B0      = 2.773991E-7    B1      = 8.423987E-7
+KETA    = 0.0104811      A1      = 0.0193128      A2      = 0.3
+RDSW    = 694.5830247    PRWG    = 0.3169639      PRWB    = -0.1958978
+WR      = 1              WINT    = 0              LINT    = 2.971337E-8
+XL      = 'dxl'          XW      = '-4E-8+dxw'    DWG     = -2.967296E-8
+DWB     = -2.31786E-10   VOFF    = -0.1152095     NFACTOR = 1.1064678
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.3676411      ETAB    = -0.0915241
+DSUB    = 1.1089801      PCLM    = 1.3226289      PDIBLC1 = 9.913816E-3
+PDIBLC2 = -1.499968E-6   PDIBLCB = -1E-3          DROUT   = 0.1276027
+PSCBE1  = 8E10           PSCBE2  = 5.772776E-10   PVAG    = 0.0135936
+DELTA   = 0.01           RSH     = 3              MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 5.59E-10       CGSO    = 5.59E-10       CGBO    = 5E-10
+CJ      = 1.857995E-3    PB      = 0.9771691      MJ      = 0.4686434
+CJSW    = 3.426642E-10   PBSW    = 0.871788       MJSW    = 0.3314778
+CJSWG   = 2.5E-10        PBSWG   = 0.871788       MJSWG   = 0.3314778
+CF      = 0              PVTH0   = 4.137981E-3    PRDSW   = 7.2931065
+PK2     = 2.600307E-3    WKETA   = 0.0192532      LKETA   = -5.972879E-3    )

.ENDL

*****************************************************************************
* Resistor & Capacator Models
*****************************************************************************
.LIB RES_CAP

.SUBCKT PolyResistorWithBulk RP RM L=1.0u W=20.0u NumStripe=1 TC1=0 TC2=0 DTEMP=0 SCALE=1 NOISE=1
.PARAM Carea_polyRes=104u ; 104 aF per square micron
.PARAM Cfringe_polyRes=50p ; 50 aF per micron
.PARAM Crespar = '(L*W*Carea_polyRes + 2*(L+W)*Cfringe_polyRes)*NumStripe'
C1 RP 0 C='Crespar/2.0'
R1 RP RM R='Poly_RSH*L/W*NumStripe' TC1='TC1' TC2='TC2' DTEMP='0' SCALE='SCALE' NOISE='NOISE'
C2 RM 0 C='Crespar/2.0'
.ENDS

.SUBCKT T_MiMCapacitor CP CM L=10.0u W=10.0u
C1 CP CM C='MIM_Carea*1E6*1E6*L*W'
.ENDS

.ENDL RES_CAP

.LIB GaAs
* GaAs model file (for Statz model)

.model GaAsFET NMF
+ level=2 sat=2 capop=1
+ tlev=0 tlevc=0 acm=0
+ vto=-0.9 beta=1.77e-4 lambda=0.0625
+ rd=900 rs=900 cgs=1.0e-15 cgd=1.0e-15
+ pb=0.65 vmax=0.5 is=1.0e-15 fc=0.0 m=0.5
+ ucrit=1e-4 alpha=3.5 crat=0.66
+ rg=5 n=1.18 ldel=-0.1u wdel=-0.15u
+ vgexp=2 satexp=3
+ eg=1.5 gap1=5e-4 gap2=200 d=10.9

.model diode D
+ is=1.6e-13 n=1.27 rs=950 bv=2 ibv=0.1u
+ cjo=2.8ff pb=1.0 m=0.5 fc=0.0
.ENDL